* source COMMNET23_PS2
E_U1         N29463 0 VALUE {LIMIT(V(N32457,N32442)*1E6,-10V,+10V)}
R_R1         N32442 N29463  25k  
R_R2         N32457 N29463  116k  
C_C1         0 N32442  1n IC=10  
R_R3         0 N32457  100k  
V_V1         N36870 0  
+SIN 9.6 6V 200 0 0 0
R_R10         N29463 N34299  12.5k  
C_C2         0 N34299  1n   
R_R11         N34299 N34303  12.5k  
C_C3         0 N34303  1n   
R_R12         N34303 N34327  12.5k  
C_C4         0 N34327  1n   
R_R17         N35399 N35575  12.5k  
R_R15         N35427 N35399  116k  
C_C7         0 N35571  1n   
R_R14         N35417 N35399  25k  
C_C8         0 N35599  1n   
R_R18         N35575 N35571  12.5k  
C_C6         0 N35575  1n   
R_R16         0 N35427  100k  
C_C5         0 N35417  1n IC=-10  
R_R19         N35571 N35599  12.5k  
E_U2         N35399 0 VALUE {LIMIT(V(N35427,N35417)*1E6,-10V,+10V)}
E_MULT1         N37313 0 VALUE {V(N36870)*V(N34327)}
E_MULT2         N373110 0 VALUE {V(N37313)*V(N35599)}
C_C9         N373110 N38768  1n   
R_R20         0 N38768  12.5k  
D_D1         N38768 N38860 Dbreak 
C_C10         0 N38860  0.01u   
R_R21         0 N38860  5k  
R_R22         N38860 N41378  10k  
C_C11         0 N41378  1u   
E_U3         N48303 0 VALUE {LIMIT(V(N41378,N48310)*1E6,-15V,+15V)}
R_R23         N48310 N48303  15k  
R_R24         0 N48310  1k  
E_U4         N54972 0 VALUE {LIMIT(V(0,N54917)*1E6,-15V,+15V)}
R_R25         N54917 N54972  100M  
R_R26         N54957 N54917  1M  
C_C12         N48303 N54957  100m   
